US07652051B2
Synthesis of (4-chloro-3-trifluoromethyl-phenyl)-{5-[4-(pyridin-3-yloxy)-phenyl]-4H-[1,2,4]triazol-3-yl}-amine
4-(pyridine-3-yloxy)benzohydrazide (2.33 g, 10.2 mmol) was dissolved in ca. 70 mL of anhydrous pyridine and S-methyl N-[4-chloro-3-(trifluoromethyl)phenyl] isothiourea hydroiodide (4.04 g, 10.2 mmol) was added. The reaction mixture was refluxed for 18 hrs under Ar. The pyridine was removed in vacuo and the resulting residue was purified by silica gel chromatography using EtOAc as eluent to give the title product (0.56 g) as a white solid.

reactant | 4-(pyridine-3-yloxy)benzohydrazide | 10.2 mmol, 2.33 g | N1=CC(=CC=C1)OC1=CC=C(C(=O)NN)C=C1 | C12H11N3O2
reactant | S-methyl N-[4-chloro-3-(trifluoromethyl)phenyl] isothiourea hydroiodide | 10.2 mmol, 4.04 g | I.CSC(NC1=CC(=C(C=C1)Cl)C(F)(F)F)=N
solvent | pyridine | ca. 70 mL | N1=CC=CC=C1 | C5H5N
product | (4-chloro-3-trifluoromethyl-phenyl)-{5-[4-(pyridin-3-yloxy)-phenyl]-4H-[1,2,4]triazol-3-yl}-amine | 0.56 g | ClC1=C(C=C(C=C1)NC1=NN=C(N1)C1=CC=C(C=C1)OC=1C=NC=CC1)C(F)(F)F | C20H13ClF3N5O
